US03991202
15 parts of 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)-phenethyl]imidazole and 60 parts of 2,4-dichlorobenzyl chloride are mixed together in 120 parts of acetone as solvent and the resulting mixture is stirred at reflux temperature for 40 hours. At the end of this period, the mixture is warmed to evaporate off most of the solvent and the residue is poured onto diisopropyl ether, whereupon the 1-(2,4-dichlorobenzyl)-3-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]imidazolium chloride product separates as an oil. The ether is decanted off and the oily residue is washed with warm xylene and thereafter triturated in 2-propanol whereupon the oily product solidified. The solid product is filtered off, washed with 2-propanol and dried to obtain a purified product, 1-(2,4-dichlorobenzyl)-3-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-imidazolium chloride, mp. 178.9° C.

reactant | 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)-phenethyl]imidazole | ClC1=C(C(CN2C=NC=C2)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C18H14Cl4N2O
reactant | 2,4-dichlorobenzyl chloride | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
solvent | acetone | CC(=O)C | C3H6O
product | 1-(2,4-dichlorobenzyl)-3-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-imidazolium chloride | [Cl-].ClC1=C(C[N+]2=CN(C=C2)CC(C2=C(C=C(C=C2)Cl)Cl)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | InChI=1S/C25H19Cl6N2O.ClH/c26-18-3-1-16(22(29)9-18)12-32-7-8-33(15-32)13-25(21-6-5-20(28)11-24(21)31)34-14-17-2-4-19(27)10-23(17)30;/h1-11,15,25H,12-14H2;1H/q+1;/p-1
